US06660756B2
3-(4-Methoxy-3-chlorophenyl)-1-propylamine
4-Methoxy-benzaldehyde (Aldrich) (42 g, 0.31 mole) and pyridine (0.6 ml, catalytic) were stirred together under nitrogen and sulfuryl chloride (51 g, 0.37 mole) added over 30 min, maintaining the internal temperature of the reaction at between 25 and 30° C. There was a vigorous evolution of gas. The mixture was stirred at room temperature for a further 30 min, and then warmed to 70° C. for 4 h. Excess reagents were removed by evaporation in vacuo and the residue taken up in 50 ml diisopropyl ether and poured onto 500 ml hexane with vigorous stirring, from which the product precipitates. The solid was filtered off and washed with hexane and then dried in vacuo to give the title product (40.3 g, 77%), m.p. 55-56° C.; 1HNMR (400 MHz, CDCl3) δ: 3.99 (s, 3H), 7.05 (dd, 1H), 7.91 (d, 1H), 9.86 (s, 1H); Anal. Found: C, 56.13; H, 4.14%. C8H7CIO2 requires C, 56.33; H, 4.14%.

reactant | 4-Methoxy-benzaldehyde | 0.31 mole, 42 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | sulfuryl chloride | 0.37 mole, 51 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | pyridine | 0.6 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Methoxy-3-chlorophenyl)-1-propylamine | 40.3 g, 77% | COC1=C(C=C(C=C1)CCCN)Cl | C10H14ClNO
